US04753933
A solution of N-{7-[2-(N-Methyl-N-tert-butoxycarbonylamino)ethoxy]-1,8-naphthyridin-2-yl}-4-methoxybenzamide (20 g) in trifluoroacetic acid (60 cc) is stirred for 1 hour at a temperature in the region of 20° C. The reaction mixture is poured into water (100 cc) and neutralized with 4N sodium hydroxide (180 cc). The insoluble product obtained is separated by filtration, washed with water and dried in the air, and is then dissolved in boiling acetonitrile (250 cc). After 2 hours' cooling at 4° C., the crystallized solid is separated by filtration, washed with acetonitrile (3×20 cc) and dried at 50° C. under reduced pressure (0.07 kPa). N-[7-(2-Methylaminoethoxy)-1,8-naphthyridin-2-yl]-4-methoxybenzamide (8.7 g), m.p. 146° C., is obtained.

reactant | N-{7-[2-(N-Methyl-N-tert-butoxycarbonylamino)ethoxy]-1,8-naphthyridin-2-yl}-4-methoxybenzamide | 20 g | CN(C(=O)OC(C)(C)C)CCOC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OC)=O | C24H28N4O5
reactant | water | 100 cc | O | H2O
reactant | sodium hydroxide | 4N, 180 cc | [OH-].[Na+]
solvent | trifluoroacetic acid | 60 cc | FC(C(=O)O)(F)F | C2HF3O2
product | N-[7-(2-Methylaminoethoxy)-1,8-naphthyridin-2-yl]-4-methoxybenzamide | 8.7 g | CNCCOC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OC)=O | C19H20N4O3
